US05100654
2-Ethoxy-5-Formylbenzylphosphonic Acid Diethyl Ester (2b)
4-Ethoxy-3-chloromethylbenzaldehyde and triethyl phosphite were added together in a 1:1 ratio and heated until no more gas evolved. The reaction solution was then vacuum distilled to give the desired product. bp 170°-171° C. at 0.75mm Hg.

reactant | 4-Ethoxy-3-chloromethylbenzaldehyde | C(C)OC1=C(C=C(C=O)C=C1)CCl | C10H11ClO2
reactant | triethyl phosphite | P(OCC)(OCC)OCC | C6H15O3P
product | 2-Ethoxy-5-Formylbenzylphosphonic Acid Diethyl Ester | C(C)OP(OCC)(=O)CC1=C(C=CC(=C1)C=O)OCC | C14H21O5P
